US06096710
Boc-Gly-Nleu-OEt
Boc-Gly-OH (4.4 g, 0.025 mol.) and Nleu-OEt (3.2 g, 0.02 mol.) were dissolved in 100 ml DMF and the solution was chilled to 0° C. on a water-ice bath. BOP (11 g, 0.025 mol.) was added to the solution. Triethylamine was used to adjust the pH of the solution to about 9. The solution was stirred overnight. The DMF was removed under reduced pressure and the resulting mixture was poured into 300 ml ethyl acetate. The ethyl acetate solution was washed by H2O, saturated NaHCO3, brine, saturated Na2SO4 and brine again. The organic layer was dried by Na2SO4 and the ethyl acetate was removed under reduced pressure to get the crude product. Column chromatography (elution solvents: E/H, 2:1) was carried out to obtain the pure product (5.9 g, 94%). TLC Rf=0.52 (developing solvents: E/H, 2:1). 1H-NMR (360 MHz, DMSO-d6) δ 6.74 (m, Gly-NH), 6.68 (m, Gly-NH), 4.18 (s, Nleu-α), 4.12 (q, ethyl ester-CH2), 4.04 (q, ethyl ester-CH2), 3.94 (s, Nleu-α), 3.79 (d, Gly-α), 3.65 (d, Gly-α), 3.07 (m, Nleu-β), 1.79 (m, 1H, Nleu-γ), 1.34 (s, 9H, Boc-CH3), 1.16 (m, ethyl ester-CH3), 0.87 (d, Nleu-δ), 0.78 (d, Nleu-δ).

reactant | Boc-Gly-OH | 0.025 mol, 4.4 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | Nleu-OEt | 0.02 mol, 3.2 g | N[C@@H](CCCC)C(=O)OCC | C8H17NO2
reactant | BOP | 0.025 mol, 11 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | Boc-Gly-Nleu-OEt | 5.9 g, 94% | N(CC(=O)N[C@@H](CCCC)C(=O)OCC)C(=O)OC(C)(C)C | C15H28N2O5
